US09315457B2
Methyl N-{4-[2-(4-chlorophenyl)-1-propylpent-4-en-1-yl]benzoyl}-β-alaninate
A DMF solution (20 ml) containing INTERMEDIATE 1 (1.66 g, 4.84 mmol), methyl β-alaninate hydrochloride (1.01 g, 7.26 mmol), DIEA (4.3 ml, 24.2 mmol) and BOP (3.21 g, 7.26 mmol) was stirred at room temperature for 1.5 hours. The solution was diluted with EtOAc and washed with water, brine and dried over Na2SO4. The filtered solution was concentrated and the residue purified by silica gel chromatography using a hexanes/EtOAc gradient to give the title compound. 1H NMR for the major diastereomer (500 MHz, CDCl3): δ 7.72 (d, J=8.2 Hz, 2H); 7.28 (d, J=8.3 Hz, 2H); 7.22 (d, J=8.2 Hz); 7.07 (d, J=8.4 Hz, 2H); 6.85-6.81 (m, 1H); 5.41-5.31 (m, 1H); 4.77-4.66 (m, 2H); 3.75-3.70 (m, 2H); 3.73 (s, 3H); 2.81-2.72 (m, 2H); 2.67 (t, J=5.9 Hz, 2H); 2.10-2.05 (m, 2H); 1.40-1.29 (m, 2H); 0.98-0.85 (m, 2H); 0.66 (t, J=7.3 Hz, 3H). LC1 4.03 min. (M+H)=428

reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | methyl β-alaninate hydrochloride | 7.26 mmol, 1.01 g | Cl.NCCC(=O)OC
reactant | DIEA | 24.2 mmol, 4.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 7.26 mmol, 3.21 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl N-{4-[2-(4-chlorophenyl)-1-propylpent-4-en-1-yl]benzoyl}-β-alaninate | ClC1=CC=C(C=C1)C(C(CCC)C1=CC=C(C(=O)NCCC(=O)OC)C=C1)CC=C | C25H30ClNO3
